US08202993B2
To a solution of 0.200 g (0.48 mmol) of 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (previously described) in THF (3 ml) at RT, 0.17 ml of dimethyl amine (5.6 M in EtOH) was added. The reaction mixture was stirred at RT for one hour and concentrated under vacuo. The crude was dissolved in CH2Cl2 (1 m) and at RT 0.2 ml of TFA was added and stirring was continued over night. Preparative HPLC (30% CH3CN/H2O) afforded 67 mg (50%) of 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid ethyl ester as colorless oil. ES-MS m/e (%): 281.3 (M+H+).

reactant | 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.48 mmol, 0.200 g | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)CBr)C(=O)OC(C)(C)C | C17H19BrClNO4
reactant | dimethyl amine | 5.6 M, 0.17 ml | CNC | C2H7N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid ethyl ester | 67 mg, 50% | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CN(C)C | C14H17ClN2O2
